* /Users/vkuruturi/Documents/ECE194/Analog-Design-Projects/Lab 1 - Common Emitter Amplifier/sim.asc
Rb1 N001 N004 10k
Rb2 N004 0 2.2k
Cblock N003 N004 10µ
Q1 N002 N004 N005 0 2N3904
Rc N001 N002 5k
Vin N003 0 SINE(0 10m 1k 0 0 0 100) AC 1
Vcc N001 0 5
Cout N002 Vout 10n
Re1 N005 N006 51
Re2 N006 0 350
C1 N006 0 330µ
.model NPN NPN
.model PNP PNP
.lib /Users/vkuruturi/Library/Application Support/LTspice/lib/cmp/standard.bjt
* .tran 0 .001 0
.ac oct 10 10 10g
.backanno
.end
